US09290517B2
(3R,3aR,6aS)-3-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,6a-tetrahydrofuro[3,2-b]furan-6-one
Combined (3R,3aR,6R,6aR)-6-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol (5.00 g, 11.11 mmol) and Dess-Martin Periodinane 0.3 M in DCM (49.0 ml, 14.70 mmol) in a 250 ml flask. The reaction mixture was stirred at room temperature. After 5.5 hours, additional Dess-Martin Periodinane (2.3407 g, 5.52 mmol) in DCM (18.0 ml) was added to the reaction mixture. After an additional 20 hours, additional Dess-Martin Periodinane (1.01 g, 2.38 mmol) in DCM (9.0 ml) was added to the reaction mixture. After an additional 5 hours, additional Dess-Martin Periodinane (566.7 mg, 1.34 mmol) was added to the reaction mixture. After an additional 16 hours, the reaction mixture was partitioned between EtOAc (400 ml) and water (200 ml). A white solid precipitated to give a thick white suspension, which was filtered through a pad of Celite™. The biphasic filtrate was separated. The filtered solid was washed with EtOAc (2×50 ml). The aqueous layer was extracted with each of the EtOAc washes after additional EtOAc (50 ml) had been added to each wash. The organic layers were combined, washed with brine (1×50 ml), dried over MgSO4, filtered, and evaporated under reduced pressure to give a yellow residue. The filtered solid was suspended in DCM/MeOH (˜300 ml). Sodium thiosulfate (4.72 g, 29.85 mmol) in water (100 ml) was added to the suspension, which was stirred in a 1 L Erlemeyer flask. 5 N NaOH (10.0 ml, 50.0 mmol) was added to the suspension, which quickly caused the solid to dissolve. The biphasic mixture was separated. The aqueous layer was acidified to pH 5 with concentrated aqueous HCl, resulting in a white precipitate. Saturated aqueous NaHCO3 was added to the aqueous layer to dissolve the precipitate before the aqueous layer was extracted with DCM (3×100 ml). The organic layers were combined, washed with saturated aqueous NaHCO3 (2×50 ml) and brine (1×50 ml), dried over MgSO4, filtered, combined with the material from the first workup, and evaporated under reduced pressure to give a yellow foam. The foam was purified by flash chromatography utilizing a 220 g silica RediSep Rf® column and employing a 0-90% EtOAc/hexane gradient. The product fractions were combined, evaporated under reduced pressure, and lyophilized from ethanol and benzene to give the title compound as a white solid. LC-MS: calculated for C24H18ClN3O4 447.1 observed m/e: 448.15 (M+H)+ (Rt 1.16/2 min); 1H NMR δ (ppm) (CD3OD): 7.95 (s, 1H), 7.75 (s, 4H), 7.71 (d, J=7.8 Hz, 2H), 7.48 (t, J=7.6 Hz, 2H), 7.38 (t, J=7.4 Hz, 1H), 5.55 (qt, J=5.4 Hz, 1H), 5.02 (t, J=5.4 Hz, 1H), 4.25 (d, J=5.1 Hz, 1H), 4.18 (dd, J=5.7 Hz, J=10.0 Hz, 1H), 4.11 (dd, J=5.1 Hz, J=10.1 Hz, 1H), 3.89 (d, J=9.5 Hz, 1H), 3.64 (d, J=9.4 Hz, 1H).

reactant | (3R,3aR,6R,6aR)-6-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol | 11.11 mmol, 5.00 g | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=CC=C1)N=C(N2)O[C@@H]2CO[C@H]1[C@@H]2OC[C@H]1O | C24H20ClN3O4
reactant | Dess-Martin Periodinane | 0.3 M | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Dess-Martin Periodinane | 5.52 mmol, 2.3407 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Dess-Martin Periodinane | 2.38 mmol, 1.01 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Dess-Martin Periodinane | 1.34 mmol, 566.7 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Sodium thiosulfate | 29.85 mmol, 4.72 g | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | NaOH | 50.0 mmol, 5 N, 10.0 ml | [OH-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 18.0 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 9.0 ml | C(Cl)Cl | CH2Cl2
solvent | DCM MeOH | ˜300 ml | C(Cl)Cl.CO
solvent | water | 100 ml | O | H2O
solvent | DCM | 14.70 mmol, 49.0 ml | C(Cl)Cl | CH2Cl2
product | (3R,3aR,6aS)-3-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,6a-tetrahydrofuro[3,2-b]furan-6-one | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=CC=C1)N=C(N2)O[C@H]2[C@@H]1[C@H](OC2)C(CO1)=O | C24H18ClN3O4
